US04906634
N-[4-[4-(Phenylmethyl)piperazin-1-yl]phenyl]methanesulfonamide 1.2 hydrochloride
To a chilled solution of 9150 g (35.5 mmol) of 4-[4-(phenylmethyl-1-piperazinyl]benzenamine in 100 mL of acetonitrile, add 6.49 g (37 mmol) of methanesulfonic anhydride in 50 mL of acetonitrile. Allow the reation mixture to stir at room temperature for 5 h. After this time, filter the resulting precipitate, add 100 mL of saturated aqueous sodium bicarbonate solution and extract this solution with 2×100 mL of methylene chloride. Wash the combined methylene chloride layers with 100 mL of saturated aqueous sodium chloride solution. Remove the solvent in vacuo. Dissolve the residue in 100 mL of methanol and acidify the solution with hydrogen chloride gas to pH=1. The solution is cooled and the resulting solid filtered to obtain the title compound.

reactant | 4-(phenylmethyl-1-piperazinyl]benzenamine | C1(=CC=CC=C1)CC1N(CCNC1)C1=CC=C(C=C1)N | C17H21N3
reactant | methanesulfonic anhydride | 37 mmol, 6.49 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-[4-[4-(Phenylmethyl)piperazin-1-yl]phenyl]methanesulfonamide | C1(=CC=CC=C1)CN1CCN(CC1)C1=CC=C(C=C1)NS(=O)(=O)C | C18H23N3O2S
